US09056874B2
a) (±)-2-((5,7-Dimethyl-1H-indol-4-yl)(hydroxy)methyl)benzo[d]imidazole-5-carbonitrile
A mixture of (±)-2-((5,7-dimethyl-1-tosyl-1H-indol-4-yl)(hydroxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile, KOH (84 mg, 1.50 mmol) and isoamylamine (0.35 mL, 3 mmol) in EtOH (1.5 mL) was heated at 100° C. for 1 h under the microwave irradiation. The reaction mixture was concentrated. The residue was diluted with CH2Cl2 and brine. The layers were separated and the aqueous layer was extracted with CH2Cl2. The combined organic extracts were dried over NaSO3, filtered and evaporated. The resulting residue was purified by flash column chromatography on NH-modified silica gel (CH2Cl2:MeOH=100:0 to 10:1) to give the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.90 (br.s, 1H) 10.84 (s, 1H) 7.87-7.91 (m, 1H) 7.56-7.61 (m, 1H) 7.45-7.50 (m, 1H) 7.14 (t, J=2.65 Hz, 1H) 6.71 (s, 1H) 6.44-6.45 (m, 1H) 6.35-6.36 (m, 1H) 2.43 (s, 3H) 2.39 (s, 3H). HRMS calcd. for C22H20N5O (M+H)+ 317.1397. found 317.1404.

reactant | (±)-2-((5,7-dimethyl-1-tosyl-1H-indol-4-yl)(hydroxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile | CC=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C(C1=NC2=C(N1)C=CC(=C2)C#N)O | C26H22N4O3S
reactant | KOH | 1.50 mmol, 84 mg | [OH-].[K+]
reactant | isoamylamine | 3 mmol, 0.35 mL | C(CC(C)C)N | C5H13N
solvent | EtOH | 1.5 mL | CCO | C2H6O
product | (±)-2-((5,7-Dimethyl-1H-indol-4-yl)(hydroxy)methyl)benzo[d]imidazole-5-carbonitrile | CC=1C(=C2C=CNC2=C(C1)C)C(C=1NC2=C(N1)C=CC(=C2)C#N)O | C19H16N4O
